US07022707B2
2-Chloro-4-cyclopropylmethoxy-6-fluoro-benzylalcohol:
This compound was prepared from 3-Chloro-5-fluoro-4-hydroxymethyl-phenol and cyclopropylmethylbromide according to the procedure described in Example 179 to give the product as a yellowish oil (305 mg, 77%); MS (EI): 230.1 (M)+.

reactant | 3-Chloro-5-fluoro-4-hydroxymethyl-phenol | ClC=1C=C(C=C(C1CO)F)O | C7H6ClFO2
reactant | cyclopropylmethylbromide | C1(CC1)CBr | C4H7Br
product | 2-Chloro-4-cyclopropylmethoxy-6-fluoro-benzylalcohol | 305 mg, 77% | ClC1=C(CO)C(=CC(=C1)OCC1CC1)F | C11H12ClFO2
